US04650514
Preparation of methyl 6-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-3-nitrothieno[2,3-b]pyridine-5-carboxylate
Methyl 6-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)thieno[2,3-b]pyridine-5-carboxylate (3.94 g, 0.0119 mol) is dissolved in 200 mL concentrated H2SO4 at room temperature. While cooling to 3° C. in an ice bath, 1.5 mL (0.024 mol) concentrated HNO3 is added, then the mixture is allowed to warm to room temperature. After three hours, the reaction mixture is poured onto ice, neutralized with solid NaHCO3 to pH 6 and is extracted with methylene chloride. The extract is filtered, then dried over sodium sulfate, refiltered and concentrated to a yield solid weighing 4.33 g (97%), which upon crystallization from methanol water has mp 201°-202.5° C.

reactant | Methyl 6-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)thieno[2,3-b]pyridine-5-carboxylate | 0.0119 mol, 3.94 g | C(C)(C)C1(N=C(NC1=O)C1=C(C=C2C(=N1)SC=C2)C(=O)OC)C | C16H17N3O3S
reactant | HNO3 | 0.024 mol, 1.5 mL | [N+](=O)(O)[O-] | HNO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | H2SO4 | 200 mL | OS(=O)(=O)O | H2O4S
product | methyl 6-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-3-nitrothieno[2,3-b]pyridine-5-carboxylate | C(C)(C)C1(N=C(NC1=O)C1=C(C=C2C(=N1)SC=C2[N+](=O)[O-])C(=O)OC)C | C16H16N4O5S
